US05834506
5-(4-Nitro-phenyl)-3-oxo-pentanoic acid ethyl ester
A solution of malonic acid monoethyl ester (16.9 g, 128 mmol) in dry THF (200 mL) was cooled to -78° C. under nitrogen, treated dropwise with 130 mL of isopropyl magnesium chloride (2.0M in THF; 260 mmol), and stirred at -78° C. for 45 minutes. A solution of 3-(4-nitrophenyl)propanoyl chloride prepared in Example EE (13.5 g, 64 mmol) in dry THF (100 mL) was added dropwise. When addition was complete, the reaction mixture was stirred at -78° C. for 1 hour and then allowed to warm to room temperature, where the solution was stirred for 3 more hours. A mixture of ice (50 mL) and 3N HCl (100 mL) was added. The solution was extracted with EtOAc, and the combined extracts were washed with brine and dried (MgSO4). Concentration gave the title compound. 1H NMR (CDCl3) δ 1.21 (t, 3 H), 2.88-3.00 (m, 4 H), 3.40 (s, 2 H), 4.13 (q, 2 H), 7.3 (d, 2 H), 8.09 (d, 2 H).

reactant | malonic acid monoethyl ester | 128 mmol, 16.9 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | isopropyl magnesium chloride | 260 mmol, 2.0M, 130 mL | C(C)(C)[Mg]Cl
reactant | 3-(4-nitrophenyl)propanoyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)Cl | C9H8ClNO3
reactant | HCl | 3N, 100 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-(4-Nitro-phenyl)-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(CCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C13H15NO5
